US08217066B2
Synthesis of N-(1-{4′-[4-((S)-2-Benzyloxy-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide (Compound 73)
1-{4′-[4-((S)-2-benzyloxy-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid (0.232 g, 0.49 mmol) was dissolved in THF (4.6 mL) along with 4-dimethylaminopyridine (0.0065 g, 0.05 mmol) and carbonyldiimidazole (0.200 g, 1.24 mmol). After stirring at room temperature for 3.5 hours, carbonyldiimidazole (0.040 g, 0.25 mmol) was added. The reaction stirred for 1 hour then methanesulfonamide (0.117 g, 1.23 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.242 mL, 1.62 mmol) were added and the reaction was heated to 100° C. After 40 minutes the reaction was cooled and submitted to standard aqueous workup. The residue was purified on silica gel (0-100% EtOAc in hexanes) to afford the title compound.

reactant | 1-{4′-[4-((S)-2-benzyloxy-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | 0.49 mmol, 0.232 g | C(C1=CC=CC=C1)OC[C@@H](O)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O)C | C29H27NO5
reactant | carbonyldiimidazole | 1.24 mmol, 0.200 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbonyldiimidazole | 0.25 mmol, 0.040 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanesulfonamide | 1.23 mmol, 0.117 g | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.62 mmol, 0.242 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | 4.6 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.05 mmol, 0.0065 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(1-{4′-[4-((S)-2-Benzyloxy-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide | C(C1=CC=CC=C1)OC[C@@H](O)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C30H30N2O6S
